US04200572
Reaction of cis-3-amino-4-oxo-2-p-toluenesulfonyloxymethylazetidine with benzyl chloroformate according to the procedure described in Preparation 2 for reaction of methyl cis-3-azido-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate and phenoxyacetyl chloride gives cis-3-benzyloxycarbonylamino-4-oxo-2-p-toluenesulfonyloxymethylazetidine.

reactant | cis-3-amino-4-oxo-2-p-toluenesulfonyloxymethylazetidine | N[C@@H]1[C@@H](NC1=O)COS(=O)(=O)C1=CC=C(C=C1)C | C11H14N2O4S
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | methyl cis-3-azido-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate | N(=[N+]=[N-])[C@@H]1[C@@H](N(C1=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OC | C14H16N4O5
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
product | cis-3-benzyloxycarbonylamino-4-oxo-2-p-toluenesulfonyloxymethylazetidine | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](NC1=O)COS(=O)(=O)C1=CC=C(C=C1)C | C19H20N2O6S
